US07098228B2
rac-2-Ethoxy-3-(1H-indol-4-yl)-propionic acid ethyl ester
A suspension of 15.0 g of (Z)-2-ethoxy-3-(1H-indol-4-yl)-acrylic acid ethyl ester in 250 ml of EtOH and 3.08 g of Pd/C (10%) was hydrogenated at 22° C. for 2 h, after which time hydrogen uptake ceased. The suspension was filtered, the filtrate evaporated and the residue chromatographed on silica gel (eluent: gradient of hexane and ethyl acetate) to give 12.28 g of the title compound as a light brown oil.

reactant | (Z)-2-ethoxy-3-(1H-indol-4-yl)-acrylic acid ethyl ester | 15.0 g | C(C)OC(/C(=C/C1=C2C=CNC2=CC=C1)/OCC)=O | C15H17NO3
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 250 ml | CCO | C2H6O
catalyst | Pd/C | 3.08 g | [Pd] | Pd
product | rac-2-Ethoxy-3-(1H-indol-4-yl)-propionic acid ethyl ester | 12.28 g | C(C)OC(C(CC1=C2C=CNC2=CC=C1)OCC)=O | C15H19NO3
